US07323455B2
7-(3-Chloro-4-fluorophenyl)-5-isopropyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one
Prepared from 7-bromo-5-isopropyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chloro-4-fluorobenzeneboronic acid using the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.02 (s, 1H), 7.83 (dd, J=7.1, 2.2 Hz, 1H), 7.67 (dd, J=8.4, 2.0 Hz, 1H), 7.60 (m, 2H), 7.53 (m, 1H), 7.52 (m, 1H), 7.23 (d, J=8.5 Hz, 1H), 7.05 (dd, J=3.6, 1.3 Hz, 1H), 7.02 (dd, J=5.0, 3.7 Hz, 1H), 4.21 (d, J=14.4 Hz, 1H), 3.90 (d, J=14.4 Hz, 1H), 2.81 (m, 1H), 0.91 (m, 6H); Anal. Calc. for C22H10ClFNO2S: C, 63.53; H, 4.60; N, 3.37. Found: C, 63.34; H, 4.92; N, 2.97.

reactant | 7-bromo-5-isopropyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C(C)C)C1 | C16H16BrNO2S
reactant | 3-chloro-4-fluorobenzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 7-(3-Chloro-4-fluorophenyl)-5-isopropyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | ClC=1C=C(C=CC1F)C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C(C)C)C1 | C22H19ClFNO2S
